US08895582B2
To a solution of 5-(tert-Butyl-dimethyl-silanyloxy)-4-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentanoic acid methyl ester (21.0 g, 45.6 mmol) in THF (450 mL) was slowly added TBAF (1 M in THF, 68.4 mL, 68.4 mmol). The reaction was stirred at 24° C. for 1 h. THF was removed. The residue was diluted with EtOAc (600 mL) and washed with saturated aq. NH4Cl and brine. The organic layers were dried over Na2SO4 and concentrated. The resulting residue was dissolved in toluene and added into a toluene solution of isoquinoline-3-carbonyl azide (9.07 g, 45.6 mmol) at 100° C. The reaction mixture was heated to 100° C. for 1 h and then concentrated. Resulting residue was purified on silica gel column using hexanes and EtOAc to give 4-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-(isoquinolin-3-ylcarbamoyloxy)-pentanoic acid methyl ester (16.8 g, 71%) as a colorless oil. LRMS (M+H+) m/z 517.1.

reactant | 5-(tert-Butyl-dimethyl-silanyloxy)-4-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentanoic acid methyl ester | 45.6 mmol, 21.0 g | COC(CCC(CO[Si](C)(C)C(C)(C)C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C21H34ClFN2O4Si
reactant | TBAF | 68.4 mmol, 1 M, 68.4 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | isoquinoline-3-carbonyl azide | 45.6 mmol, 9.07 g | C1=NC(=CC2=CC=CC=C12)C(=O)N=[N+]=[N-] | C10H6N4O
solvent | THF | 450 mL | C1CCOC1 | C4H8O
product | 4-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-5-(isoquinolin-3-ylcarbamoyloxy)-pentanoic acid methyl ester | 16.8 g, 71% | COC(CCC(COC(NC=1N=CC2=CC=CC=C2C1)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C25H26ClFN4O5
